US05430153
3-Acetyl-6-chloro-8-trifluoromethyl-4-ethylamino-2-quinolinone (251)
3-Acetyl-6-chloro-8-trifluoromethyl-4-methylsulfoxy-2-quinolinone (3.5g, 0.01 mol) and ethylamine(70 wt % solution; 0.65g, 0.01 mol) were used, but the reaction was carried out as the above process of example 37 to obtain the desired product (2.52g, yield: 76%).

reactant | 3-Acetyl-6-chloro-8-trifluoromethyl-4-methylsulfoxy-2-quinolinone | 0.01 mol, 3.5g | C(C)(=O)C=1C(NC2=C(C=C(C(=C2C1C)OS(=O)(=O)O)Cl)C(F)(F)F)=O | C13H9ClF3NO6S
reactant | ethylamine | 0.01 mol, 0.65g | C(C)N | C2H7N
product | 3-Acetyl-6-chloro-8-trifluoromethyl-4-ethylamino-2-quinolinone | 2.52g, yield: 76% | C(C)(=O)C=1C(NC2=C(C=C(C=C2C1NCC)Cl)C(F)(F)F)=O | C14H12ClF3N2O2
